US04644005
H1. 1-ethyl-5-(2-thenoyl)oxindole
To a mixture of 27.3 g. (19.9 mmoles) of 2-thenoyl chloride, 30 ml. of nitrobenzene and 32.95 g. of aluminum chloride was gradually added 10 g. (62 mmoles) of 1-ethyloxindole, and the resulting reaction mixture heated at 100° C. for 75 minutes. The reaction was cooled to room temperature and poured into 2 l. of ice and water. The product was extracted with methylene chloride and the dried extract concentrated to dryness, 11.05 g. The product was recrystallized from methylene chloride-hexane, 8.03 g. (47.7% yield)m, m.p. 158°-160° C.

reactant | 2-thenoyl chloride | 19.9 mmoles | C1(=CC=CS1)C(=O)Cl | C5H3ClOS
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-ethyloxindole | 62 mmoles | C(C)N1C(CC2=CC=CC=C12)=O | C10H11NO
solvent | water | O | H2O
product | 1-ethyl-5-(2-thenoyl)oxindole | 47.7% yield | C(C)N1C(CC2=CC(=CC=C12)C(C1=CC=CS1)=O)=O | C15H13NO2S
